US04006145
7 g of 3-[2-[4-(2-amino-10,11-dihydro-dibenzo[b,f]-thiepin-10-yl)-1-piperazinyl]-ethyl]-2-oxazolidinone, 13.1 ml of 40% formaldehyde and 61 ml of acetonitrile are treated with 3.32 of sodium cyanoborohydride and the resulting mixture is treated dropwise over period of 10 minutes with 1.5 ml of acetic acid. The mixture is stirred for a further 90 minutes, treated dropwise with a further 1.5 ml of acetic acid and again stirred for 15 minutes. The mixture is now extracted with 200 ml of ether and the organic phase washed three times with 1-N aqueous potassium hydroxide solution, dried over sodium sulphate and evaporated. There is obtained 3-[2-[4-(10,11-dihydro-2-dimethylamino-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl]-2-oxazolidinone which melts at 168°-170° C. After recrystallisation from ethanol, this compound melts at 171°-173° C. By treatment with maleic acid there is obtained the corresponding maleate which melts at 143.5°-144.5° C after recrystallisation from acetonitrile.

reactant | 3-[2-[4-(2-amino-10,11-dihydro-dibenzo[b,f]-thiepin-10-yl)-1-piperazinyl]-ethyl]-2-oxazolidinone | 7 g | NC1=CC2=C(SC3=C(C(C2)N2CCN(CC2)CCN2C(OCC2)=O)C=CC=C3)C=C1 | C23H28N4O2S
reactant | formaldehyde | 13.1 ml | C=O | CH2O
reactant | acetonitrile | 61 ml | C(C)#N | C2H3N
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | 3-[2-[4-(10,11-dihydro-2-dimethylamino-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl]-2-oxazolidinone | CN(C1=CC2=C(SC3=C(C(C2)N2CCN(CC2)CCN2C(OCC2)=O)C=CC=C3)C=C1)C | C25H32N4O2S
